US07390830B1
Synthesis of (R)-1-(4-chlorobenzyl)-3-[[N-(2-amino-5-chlorobenzoyl)glycyl]amino]pyrrolidine (Compd. No. 1084)
2-Amino-5-chlorobenzoic acid (0.060 mL) and diisopropylcarbodiimide (0.060 mol) were added to a chloroform (2 mL) solution of (R)-1-(4-chlorobenzyl)-3-(glycylamino)pyrrolidine (0.050 mmol). The resulting reaction solution was stirred at room temperature for 15 hours. The mixture solution was loaded onto a Varian™ SCX column and washed with methanol (15 mL). The obtained crude product was eluted with a solution of 2 M NH3 in methanol (5 mL) and concentrated to thereby afford (R)-1-(4-chlorobenzyl)-3-[N-[2-amino-5-chlorobenzoyl]glycyl]amino]pyrrolidine (Compd. No. 1084) (12.7 mg, 60%). The purity was determined by RPLC/MS (87%). ESI/MS m/e 421.0 (M++H, C20H22Cl2N4O2).

reactant | 2-Amino-5-chlorobenzoic acid | 0.060 mL | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | diisopropylcarbodiimide | 0.060 mol | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | (R)-1-(4-chlorobenzyl)-3-(glycylamino)pyrrolidine | 0.050 mmol | ClC1=CC=C(CN2C[C@@H](CC2)NC(CN)=O)C=C1 | C13H18ClN3O
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-1-(4-chlorobenzyl)-3-[[N-(2-amino-5-chlorobenzoyl)glycyl]amino]pyrrolidine | ClC1=CC=C(CN2C[C@@H](CC2)NC(CNC(C2=C(C=CC(=C2)Cl)N)=O)=O)C=C1 | C20H22Cl2N4O2
